US04077982
B. preparation of 5-Benzyloxy-2-(2-fluorophenyl)-1,3-dioxane
5-Hydroxy-2-(2-fluorophenyl)-1,3-dioxane (18.0 g, 0.09 mole) was reacted with sodium hydride and benzyl chloride (13.0 g, 0.09 mole) as described in Example 2, except that the slurry was heated at 80°-100° C for 12 hours. The product was isolated in the manner described in Example 2 to give 12.1 g of oil which was distilled under 1 × 10-5 mm to give a product (6.2 g) which distilled at a pot temperature of 165°-170° C. VPC analysis of this product indicated it to contain 32% cis-5-benzyloxy-2-(2-fluorophenyl)-1,3-dioxane.

reactant | 5-Hydroxy-2-(2-fluorophenyl)-1,3-dioxane | 0.09 mole, 18.0 g | OC1COC(OC1)C1=C(C=CC=C1)F | C10H11FO3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | 0.09 mole, 13.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 5-Benzyloxy-2-(2-fluorophenyl)-1,3-dioxane | 12.1 g | C(C1=CC=CC=C1)OC1COC(OC1)C1=C(C=CC=C1)F | C17H17FO3
